US06919343B2
To a solution of N-[(1R)-1-(4-bromo-2-fluorophenyl)ethyl]-2-methylpropane-2-sulfinamide (26.29 g, 81.58 mmol) in 40 mL methanol was added HCl/dioxane (4M, 40.8 mL, 0.163 mol) solution. The reaction mixture was concentrated in vacuo, and ether was added. The white solid was collected, washing with cold ether, and dried under vacuum to yield (1R)-1-(4-bromo-2-fluorophenyl)ethanaminium chloride that gave proton NMR spectra consistent with theory.

reactant | N-[(1R)-1-(4-bromo-2-fluorophenyl)ethyl]-2-methylpropane-2-sulfinamide | 81.58 mmol, 26.29 g | BrC1=CC(=C(C=C1)[C@@H](C)NS(=O)C(C)(C)C)F | C12H17BrFNOS
reactant | HCl dioxane | 0.163 mol, 4M, 40.8 mL | Cl.O1CCOCC1
solvent | methanol | 40 mL | CO | CH4O
product | (1R)-1-(4-bromo-2-fluorophenyl)ethanaminium chloride | [Cl-].BrC1=CC(=C(C=C1)[C@@H](C)[NH3+])F | InChI=1S/C8H9BrFN.ClH/c1-5(11)7-3-2-6(9)4-8(7)10;/h2-5H,11H2,1H3;1H/t5-;/m1./s1
